US08283353B2
4′-({4-[1-(2-hydroxyethyl)piperidin-4-yl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
A mixture of 4′-[(5-oxo-4-piperidin-4-yl-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile (300 mg), 2-bromoethanol (170 mg), sodium carbonate (280 mg) and ethanol (20 mL) was stirred at 80° C. for 15 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by basic silica gel chromatography [eluent: hexane/ethyl acetate=35/65→0/100 (volume ratio)] to give the title compound as a colorless amorphous compound (205 mg, 63%).

reactant | 4′-[(5-oxo-4-piperidin-4-yl-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 300 mg | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)C2CCNCC2 | C27H28N6O
reactant | 2-bromoethanol | 170 mg | BrCCO | C2H5BrO
reactant | sodium carbonate | 280 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 20 mL | C(C)O | C2H6O
solvent | Water | O | H2O
product | 4′-({4-[1-(2-hydroxyethyl)piperidin-4-yl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | OCCN1CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C29H32N6O2
